US07662841B2
A suspension of ethyl 2-bromoimidazo[5,1-b] thiazole-7-carboxylate (49.5 g, 200 mmol) in methanol (720 ml) was cooled in a brine/ice water bath. A 2.7 M aqueous solution (720 ml) of sodium hydroxide was added to this suspension, and the mixture was stirred at room temperature for about 15 hr. After the completion of the reaction, methanol was removed by distillation under the reduced pressure for concentration, and the concentrate was cooled in a brine/ice water bath. Concentrated hydrochloric acid (164 ml) was added to this concentrate, and the mixture was adjusted to pH 5 and was stirred at room temperature overnight. The resultant precipitate was collected by filtration. The precipitate was then washed with water (60 ml) and was dried under the reduced pressure to give 2-bromoimidazo[5,1-b]thiazole-7-carboxylic acid (46.5 g, yield 94.0%) as a white solid.

reactant | ethyl 2-bromoimidazo[5,1-b] thiazole-7-carboxylate | 200 mmol, 49.5 g | BrC1=CN2C(S1)=C(N=C2)C(=O)OCC | C8H7BrN2O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 720 ml | CO | CH4O
product | 2-bromoimidazo[5,1-b]thiazole-7-carboxylic acid | 46.5 g, yield 94.0% | BrC1=CN2C(S1)=C(N=C2)C(=O)O | C6H3BrN2O2S
